US06265575B1
Part E. 6-Benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-Amino-4-(1-pyrrolidinylmethyl)phenyl Ketone
The 492 mg (0.955 mmol) of 6-benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-nitro-4-(1-pyrrolidinylmethyl)phenyl ketone (Part D, above) was dissolved in 21 mL of an EtOH/MeOH mixture (5:2 ratio). To the reaction mixture was added 1.07 g (4.77 mmol) of stannous chloride dihydrate. The reaction mixture was heated to 75° C. and to the solution was added 18.1 mg of sodium borohydride dissolved in 10 mL of EtOH/MeOH mixture (7:3 ratio). The solution was added dropwise via syringe over 25 min. The reaction mixture was stirred at 75° C. for 1.5 h. The reaction was then allowed to cool to room temperature. and was then poured into 20 mL of chilled (0° C.) water. The mixture was neutralized by adding 4 mL of 2 N NaOH solution and then concentrated under reduced pressure to a volume of 30 mL. This mixture was extracted with EtOAc (4×100 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to afford 451 mg (97% crude yield) as a orange foam.

reactant | 6-benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-nitro-4-(1-pyrrolidinylmethyl)phenyl ketone | 0.955 mmol, 492 mg | [N+](=O)([O-])C=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C29H29N3O4S
reactant | sodium borohydride | 18.1 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | NaOH | 2 N, 4 mL | [OH-].[Na+]
solvent | EtOH MeOH | 21 mL | CCO.CO
solvent | EtOH MeOH | 10 mL | CCO.CO
product | 6-Benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3-Amino-4-(1-pyrrolidinylmethyl)phenyl Ketone | NC=1C=C(C=CC1CN1CCCC1)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C29H31N3O2S
